US07169789B2
N-(4-{[7-(Benzyloxy)-6-methoxy-4-quinolyl]oxy}-2,3-dimethylphenyl)-N′-(2,4-difluorophenyl)urea
4-{[7-(Benzyloxy)-6-methoxy-4-quinolyl]oxy}-2,3-dimethylaniline (260 mg) was dissolved in N,N-dimethylformamide (5 ml). 2,4-Difluorophenyl isocyanate (121 mg) was then added to the solution, and a reaction was allowed to proceed at room temperature overnight. Methanol was added to the reaction solution, and the solvent was removed by distillation under the reduced pressure. The residue was washed with methanol and was collected by filtration to give 219 mg (yield 61%) of the title compound.

reactant | 4-{[7-(Benzyloxy)-6-methoxy-4-quinolyl]oxy}-2,3-dimethylaniline | 260 mg | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=C(C(=C(N)C=C1)C)C)OC | C25H24N2O3
reactant | 2,4-Difluorophenyl isocyanate | 121 mg | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
reactant | Methanol | CO | CH4O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-(4-{[7-(Benzyloxy)-6-methoxy-4-quinolyl]oxy}-2,3-dimethylphenyl)-N′-(2,4-difluorophenyl)urea | 219 mg, yield 61% | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=C(C(=C(C=C1)NC(=O)NC1=C(C=C(C=C1)F)F)C)C)OC | C32H27F2N3O4
